2133-07-03 09:11:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo man with h/o HTN, Prostate CA, left nephrostomy for
   retroperitoneal fibrosis.  [**Date range (1) 8425**] admitted to floor for hematuria,
   nausea, vomitting, and left flank pain.  Got CBI, Cipro.  Creat 3.4
   with b/l hydro with not stone.  Got left percutaneous nephrostomy
   tube.   Presents now with increasing right flank pain, N/V, chills.
   Decreased urine output out of left nephrostomy.  in ED 98.3, 106,
   60/40-125/70.  WBC 11.7, 13% bands.  CT abd with right hydro.  Got
   morphine, albuterol, cipro.  Got right IJ, but low BP of 60/40 improved
   to 110s.
   24 Hour Events:
 MULTI LUMEN - START [**2133-7-2**] 11:35 PM
 EKG - At [**2133-7-3**] 01:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-7-3**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   prilosec
   tamsulosin
   finasteride
   simvastatin
   omeprazole
   SSI
   hep s/q
   docusate
   Changes to medical and family history:
   DM, asthma, left knee cyst chronic back pain.
   Meds at home: as above in resident home.
   SHx.  no tobacco, no drugs, no ETOH
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-7-3**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 112 (99 - 115) bpm
   BP: 119/68(81) {91/52(62) - 119/70(81)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 16 (8 - 18)mmHg
   Total In:
                                                                  1,863 mL
   PO:
   TF:
   IVF:
                                                                  1,863 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    530 mL
   Urine:
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,333 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : occasional,
   scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, mild right CVA
   tenderness
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   143 K/uL
   106 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.7 mEq/L
   55 mg/dL
   107 mEq/L
   138 mEq/L
   22.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2133-7-3**]  01:45 AM
                             [**2133-7-3**]  05:32 AM
   WBC
   7.7
   Hct
   22.2
   22.6
   Plt
   143
   Cr
   3.5
   Glucose
   106
   Other labs: PT / PTT / INR:16.5/30.3/1.5, Alk Phos / T Bili:/1.6,
   Differential-Neuts:89.1 %, Lymph:6.6 %, Mono:3.7 %, Eos:0.5 %, Lactic
   Acid:1.4 mmol/L, Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**1-11**] GNRS
   Assessment and Plan
   Septicemia from obstructive pylonephritis with GNR bacteremia:
   Continue cipro.  Will likely need perc nephrostomy will discuss with
   urology.
   Acute renal failure:  likely secondary to combination of hydronephrosis
   and hypovolemia from sepsis
   elevate bili:  unclear cause.  will follow for now.  check hemolysis
   labs
   anemia:  check hemolysis labs given mild elevated bili
   retoperitoneal fibrosis:  unclear cause
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-7-2**] 11:35 PM
   18 Gauge - [**2133-7-2**] 11:37 PM
   16 Gauge - [**2133-7-2**] 11:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2133-07-04 09:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-7-3**] 11:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-7-4**] 08:00 AM
   Omeprazole (Prilosec) - [**2133-7-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-7-4**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 104 (98 - 113) bpm
   BP: 113/61(73) {90/46(50) - 124/88(95)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,810 mL
                                                                    944 mL
   PO:
                                                                    240 mL
                                                                    560 mL
   TF:
   IVF:
                                                                  2,570 mL
                                                                    100 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  2,725 mL
                                                                  1,380 mL
   Urine:
                                                                  2,725 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     85 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   121 K/uL
   125 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.5 mEq/L
   51 mg/dL
   106 mEq/L
   136 mEq/L
   21.0 %
   5.0 K/uL
        [image002.jpg]
                             [**2133-7-3**]  01:45 AM
                             [**2133-7-3**]  05:32 AM
                             [**2133-7-3**]  07:49 PM
                             [**2133-7-4**]  03:42 AM
   WBC
   7.7
   5.0
   Hct
   22.2
   22.6
   22.9
   21.0
   Plt
   143
   121
   Cr
   3.5
   3.4
   3.1
   Glucose
   106
   142
   125
   Other labs: PT / PTT / INR:13.8/30.3/1.2, Alk Phos / T Bili:/1.6,
   Differential-Neuts:89.1 %, Lymph:6.6 %, Mono:3.7 %, Eos:0.5 %,
   Fibrinogen:641 mg/dL, Lactic Acid:1.4 mmol/L, LDH:166 IU/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Microbiology: Blood cultures + GNR
   Ecoli in urine
   Assessment and Plan
   69 y.o. M with hypertension, prostate cancer s/p XRT 3 years ago, s/p L
   percutaneous nephrostomy for hydronephrosis secondary to
   retroperitoneal fibrosis, who presents with R flank pain, nausea,
   vomiting, and acute renal failure with reported hypotension in ED.
   # Hypotension: Unclear if patient with true hypotension in the ED as
   manual BP cuff readings and automatic BP cuff [**Location (un) **] were not
   correlating.  Per report, patient was mentating well and making urine
   during reported SBP of 68, which is reassuring.  However, given
   bandemia, fever 101.1, and + UTI, would still consider sepsis as an
   etiology of hypotension.  Currently pt is volume replete s/p 4 L IVFs
   with CVP 13 and SBP in 100s.
   - monitor BP
   - IVF boluses for MAP>65 and for CVP goal [**8-19**]
   - if not responsive, then consider starting pressors
   - monitor CVP
   - monitor UOP for goal 30 cc/hour
   - trend fever curve, leukocytosis and bandemia
   - f/u culture data
   - f/u final CT read
   - treat pyelo with ciprofloxacin x 14 days
   # Pyelonephritis: Likely explains patient's increasing R flank pain,
   nausea, vomiting and + UTI.  In the past, has had pan-sensitive
   e.coli.
   - treat with ciprofloxacin x 14 days
   - f/u urine culture
   - supportive management with anti-emetic
   # R sided hydronephrosis: Seen on CT on admission. Already has L
   percutaneous nephrostomy tube in place.  Plan as outpatient was to
   discuss permanent indwelling nephrostomy tubes with urology.  He is
   scheduled for cytoscopy, bilateral retrograde pyelograms, possible
   bilateral ureteral stent placement and bilateral urteroscopy on [**7-21**].
   - consult urology in AM for possible tube/stent placements as inpatient
   - f/u final CT read
   # Acute Renal Failure: Likely secondary to obstruction in upper
   urogenital tract that is causing hydronephrosis.  No stones ever seen.
   - trend Cr
   - monitor foley output and L nephrostomy tube output
   - avoid nephrotoxins
   - renally dose medications
   - send urine lytes
   - continue tamsulosin and finasteride
   - consult urology in AM
   # Isolated hyperbilirubinemia: Elevated on admission. Other LFTs WNL.
   - add on direct bilirubin to help with etiology
   # Hyperkalemia:
   - EKG on admission
   - repeat K now
   # Hypertension: hold anti-hypertensives for now given report of
   hypotension
   - reinstitute BP meds in AM as tolerated
   # Hyperlipidemia: continue statin
   # NIDDM: [**5-/2133**] HgbA1c 6.6%
   - hold oral hypoglycemics while in house
   - HISS
   # Asthma: continue albuterol prn
   # Chronic low back pain: Secondary to disc herniation.
   - percocet prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-7-2**] 11:35 PM
   18 Gauge - [**2133-7-2**] 11:37 PM
   16 Gauge - [**2133-7-2**] 11:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2133-07-05 08:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yom with hypertension, prostate cancer s/p XRT 3 years ago, s/p L
   percutaneous nephrostomy for hydronephrosis secondary to
   retroperitoneal fibrosis, who presents with urosepsis and signs of R
   hydronephrosis.
   24 Hour Events:
   Was kept in ICU yest for rigors. No fevers or other change in clinical
   status noted afterward. Remains stable and without complaint
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-7-3**] 11:36 PM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2133-7-4**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2133-7-4**] 09:40 PM
   Other medications:
   Flomax, Poroscar, simvastatin, omeprazole,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-7-5**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 98 (92 - 111) bpm
   BP: 128/58(75) {101/47(67) - 145/82(92)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,664 mL
                                                                    120 mL
   PO:
                                                                  1,280 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  3,595 mL
                                                                  1,370 mL
   Urine:
                                                                  3,595 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,931 mL
                                                                 -1,250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: post R flank dressing c/d/i, L nephrostomy tube with yellow
   urine outpt
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   131 K/uL
   165 mg/dL
   2.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   49 mg/dL
   104 mEq/L
   133 mEq/L
   24.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2133-7-3**]  01:45 AM
                             [**2133-7-3**]  05:32 AM
                             [**2133-7-3**]  07:49 PM
                             [**2133-7-4**]  03:42 AM
                             [**2133-7-4**]  01:57 PM
                             [**2133-7-4**]  11:44 PM
   WBC
   7.7
   5.0
   4.5
   Hct
   22.2
   22.6
   22.9
   21.0
   24.1
   24.5
   Plt
   143
   121
   131
   Cr
   3.5
   3.4
   3.1
   2.9
   Glucose
   106
   142
   125
   165
   Other labs: PT / PTT / INR:12.2/27.1/1.0, Alk Phos / T Bili:/1.6,
   Differential-Neuts:89.1 %, Lymph:6.6 %, Mono:3.7 %, Eos:0.5 %,
   Fibrinogen:641 mg/dL, Lactic Acid:1.4 mmol/L, LDH:166 IU/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Imaging: [**7-4**] Renal U/S- no abscess noted
   Microbiology: [**7-2**] urine- pan [**Last Name (un) 270**] Ecoli
   [**7-2**] bloodx2- pans [**Last Name (un) 270**] GNRs
   [**7-4**] bloodx2- pending
   Assessment and Plan
   SEPSIS- due to Ecoli UTI/pyelonephritis and GNR bacteremia
   -complete 14d ciprofloxacin
   -hemodynamically stable
   [**Name (NI) 8465**] unclear etiology, no clear signs or symptoms of another
   infectious source
   -continue to monitor
   -repeat cx drawn yest; f/u
   ACUTE RENAL FAILURE- underlying obstructive uropathy + infectioin
   -now with good UOP
   -trend creat
   -renal-dosed meds
   ICU Care
   Nutrition:
   Comments: tolerating PO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2133-7-2**] 11:37 PM
   20 Gauge - [**2133-7-4**] 04:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes